US06281218B1
2-Bromo-N-(4-methoxy-2-nitrophenyl)acetamide
A solution of 2-bromoacetylbromide (17.9 ml; 0.20 moles) in CH2Cl2 (30 ml) was slowly added to a mixture of 4-methoxy-2-nitroaniline (30 g; 0.18 moles) and triethylamine (28 ml; 0.2 moles) in CH2Cl2 (300 ml). The reaction mixture was stirred at room temperature overnight, then poured into water. The aqueous layer was extracted with additional CH2Cl2, dried over MgSO4 and evaporated under vacuum. The crude product was crystallized from a 7/3 Et2O/EtOH mixture to give the title compound as a white solid. 31.5 g; m.p. 94-98° C.

reactant | 2-bromoacetylbromide | 0.20 moles, 17.9 ml | BrCC(=O)Br | C2H2Br2O
reactant | 4-methoxy-2-nitroaniline | 0.18 moles, 30 g | COC1=CC(=C(N)C=C1)[N+](=O)[O-] | C7H8N2O3
reactant | triethylamine | 0.2 moles, 28 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 300 ml | C(Cl)Cl | CH2Cl2
product | 2-Bromo-N-(4-methoxy-2-nitrophenyl)acetamide | BrCC(=O)NC1=C(C=C(C=C1)OC)[N+](=O)[O-] | C9H9BrN2O4
